*2N6427 MCE 5-9-97
*Ref: National Discrete Products Databook, 1996
*Si 625mW 40V 1.2A pkg:TO-92B 1,2,3
.SUBCKT 2N6427   1 2 3
*    TERMINALS:  C B E
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
.MODEL QPWR NPN (IS=1.44P NF=1 BF=102 VAF=114 IKF=0.96 ISE=115P NE=2
+ BR=4 NR=1 VAR=48 IKR=1.44 RE=0.333 RB=1.33 RC=0.133 CJE=220P XTB=1.5
+ VJE=0.74 MJE=0.45 CJC=12.2P VJC=1.1 MJC=0.24 TF=69.6N TR=3.01U)
.ENDS 