*2N7053 MCE 5-9-97
*Ref: National Discrete Products Databook, 1996
*Si 625mW 100V 1.5A pkg:TO-92B 1,2,3
.SUBCKT 2N7053   1 2 3
*    TERMINALS:  C B E
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
.MODEL QPWR NPN (IS=1.8P NF=1 BF=84.4 VAF=180 IKF=1.2 ISE=174P NE=2
+ BR=4 NR=1 VAR=48 IKR=1.8 RE=0.267 RB=1.07 RC=0.107 CJE=96.6P XTB=1.5
+ VJE=0.74 MJE=0.45 CJC=13.9P VJC=1.1 MJC=0.24 TF=110N TR=4.76U)
.ENDS 


