*1N5221B MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*2.4V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT 1N5221B  1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  1.833
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=293P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=636U RS=3.11 N=5.6)
.ENDS 