*1N5225B MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*3V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT 1N5225B  1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  2.458
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=210P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=122U RS=2.1 N=3.8)
.ENDS