*
.SUBCKT 2PD601AR 1 2 3
Q1 1 2 3 2PD601AR
+ AREA = 1
D1 2 1 DIODE
*
*The diode does not reflect a
*physical device but improves
*only modeling in the reverse
*mode of operation.
*
.MODEL 2PD601AR NPN
+(
+ IS = 1.217E-14
+ NF = 0.9803
+ ISE = 1.129E-15
+ NE = 1.342
+ BF = 300
+ IKF = 0.16
+ VAF = 130
+ NR = 0.9758
+ ISC = 8.952E-15
+ NC = 1.2
+ BR = 6.2
+ IKR = 0.075
+ VAR = 20
+ RB = 10
+ IRB = 8E-05
+ RBM = 1
+ RE = 0.5
+ RC = 0.75
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.362E-11
+ VJE = 0.7287
+ MJE = 0.36
+ TF = 3.8E-10
+ XTF = 1.5
+ VTF = 15
+ ITF = 0.085
+ PTF = 0
+ CJC = 5.522E-12
+ VJC = 0.4075
+ MJC = 0.3704
+ XCJC = 1
+ TR = 1E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
+)
.MODEL DIODE D
+(
+ IS = 4E-17
+ N = 1
+ BV = 1000
+ IBV = 0.001
+ RS = 0.1
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ XTI = 2
+ EG = 1.11
+ XTI = 2
+)
.ENDS
*