*10RIA100 MCE 3/18/98
*Ref: IR Power Semiconductors Product Digest '94
*100V 25A pkg:TO-126 1,2,3
.SUBCKT 10RIA100 1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    64K
RR  1 4    42.7K
RGK 6 5    50
RG  2 6    1.27
RK  3 5    6.94M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=10F IBV=312U BV=100)
.MODEL ZR   D (IS=10F IBV=312U BV=100)
.MODEL ZGK  D (IS=10F IBV=312U BV=5)
.MODEL POUT PNP (IS=10P BF=1 CJE=134P TF=45.1U)
.MODEL NOUT NPN (IS=10P BF=100 RC=27.7M CJE=670P CJC=134P TF=3.01U)
.ENDS 10RIA100
