**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Dec  3, 01
* MODEL FORMAT: SPICE3
* 1 = K, 2 = A1, 3 = A2
.SUBCKT 30scljq030 1 2 3
D1 2 1 D30scljq030
D2 3 1 D30scljq030

.MODEL D30scljq030 d
+(
+		IS=3.04923e-06
+		RS=0.0123656
+		N=1.0506
+		EG=1.3
+		XTI=2.9944
+		BV=30
+		IBV=0.0001
+		CJO=1.61571e-09
+		VJ=0.442068
+		M=0.472758
+		FC=0.5
+		TT=0
+		KF=0
+		AF=1
+)

.ENDS 30scljq030