**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr  1, 99
* MODEL FORMAT: SPICE3
* 1 = A1 ,3 = A2, 4 = K
.SUBCKT 50wq06fn  1 3 4
D1 1 4 D50wq06fn
D2 3 4 D50wq06fn

.MODEL D50wq06fn d
+(
+		IS=1e-15
+		RS=0.0205874
+		N=0.5
+		EG=1.3
+		XTI=0.5
+		BV=1000
+		IBV=0.0001
+		CJO=8.86241e-10
+		VJ=0.899259
+		M=0.559144
+		FC=0.5
+		TT=1e-09
+		KF=0
+		AF=1
+)

.ENDS 50wq06fn